US05455258
Sodium hydride (1.56 g of a 50 % oil dispersion, 33.0 mmol) is suspended in tetrahydrofuran (85 mL). To this is added a solution of N-[4-methoxybenzenesulfonyl]benzylamine (9.0 g, 32.5 mmol) also in tetrahydrofuran (85 mL), and the reaction is stirred for 30 minutes at room temperature. Then ethyl bromoacetate (5.40 mL, 48.8 mmol) is added, and the reaction is stirred overnight at room temperature. The reaction is quenched with a small amount of water, and all the solvent is removed. The crude mixture is partitioned between ethyl acetate and water, the aqueous phase is extracted several times with ethyl acetate, the combined organic layers are dried (Na2SO4), and the solvent is evaporated. The product is purified by silica gel chromatography (30% ethyl acetate/hexane) to give ethyl 2-[[4-methoxybenzenesulfonyl](benzyl)amino]acetate.

reactant | Sodium hydride | [H-].[Na+]
reactant | N-[4-methoxybenzenesulfonyl]benzylamine | 32.5 mmol, 9.0 g | COC1=CC=C(C=C1)S(=O)(=O)NCC1=CC=CC=C1 | C14H15NO3S
reactant | ethyl bromoacetate | 48.8 mmol, 5.40 mL | BrCC(=O)OCC | C4H7BrO2
solvent | tetrahydrofuran | 85 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 85 mL | O1CCCC1 | C4H8O
product | ethyl 2-[[4-methoxybenzenesulfonyl](benzyl)amino]acetate | COC1=CC=C(C=C1)S(=O)(=O)N(CC(=O)OCC)CC1=CC=CC=C1 | C18H21NO5S
